US04619927
1-(3-Nitro-2-pyrazinyl)piperazin-3-one
A solution of 2-chloro-3-nitropyrazine (9.1 g, 57 mmol) in chloroform (100 ml) was added dropwise over 45 minutes to a cooled solution of piperazine-2-one (5.71 g, 57 mmol) and triethylamine (8.0 ml, 57 mmol) in isopropanol (120 ml). After addition was complete, the reaction mixture was allowed to warm to 20°-25° and was stirred at this temperature for 20 hours. The precipitate was removed by filtration and recrystallized from methanol-ethyl acetate-hexane to give 6.96 g (54.7%) of product, m.p. 178°-179°.

reactant | 2-chloro-3-nitropyrazine | 57 mmol, 9.1 g | ClC1=NC=CN=C1[N+](=O)[O-] | C4H2ClN3O2
reactant | piperazine-2-one | 57 mmol, 5.71 g | N1C(CNCC1)=O | C4H8N2O
reactant | triethylamine | 57 mmol, 8.0 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
product | 1-(3-Nitro-2-pyrazinyl)piperazin-3-one | 6.96 g, 54.7% | [N+](=O)([O-])C=1C(=NC=CN1)N1CC(NCC1)=O | C8H9N5O3
